US06437184B1
A mixture of 15.67 g of 4-bromophenetyl alcohol, 6.88 g of 3,4-dihydro-2H-pyran, a catalytic amount of p-toluenesulfonic acid monohydrate, and 100 ml of tetrahydrofuran was stirred at room temperature for 24 hours. The reaction mixture was poured into water, and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution in this order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure, which afforded 21.5 g (yield, 97%) of 4-(2-(2-tetrahydropyranyloxy)ethyl)-1-bromobenzene, m.p., 93.9° C.

reactant | 4-bromophenetyl alcohol | 15.67 g | BrC1(CC=C(C=C1)O)OCC | C8H11BrO2
reactant | 3,4-dihydro-2H-pyran | 6.88 g | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(2-(2-tetrahydropyranyloxy)ethyl)-1-bromobenzene | 21.5 g, 97% | O1C(CCCC1)OCCC1=CC=C(C=C1)Br | C13H17BrO2
